2182-05-05 07:47:00 Physician Resident Progress Note
24 Hour Events:
 Pt. was stable yesterday.  He was seen by IP and they recommended
   extubation in the OR likely on Monday.  Pt. needs to be NPO after
   midnight tonight.  PICC team unable to place PICC at bedside, IR PICC
   ordered.
   Pt. did well on pressure support all day.
   Allergies:
   Lasix (Oral) (Furosemide)
   Rash;
   Betalactams
   Rash;
   Haldol (Injection) (Haloperidol Lactate)
   Confusion/Delir
   Last dose of Antibiotics:
   Levofloxacin - [**2182-5-4**] 02:12 AM
   Metronidazole - [**2182-5-4**] 04:27 AM
   Cefipime - [**2182-5-4**] 04:00 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2182-5-4**] 07:51 AM
   Dextrose 50% - [**2182-5-4**] 10:26 AM
   Heparin Sodium (Prophylaxis) - [**2182-5-5**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-5-5**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**84**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.5
   HR: 59 (59 - 76) bpm
   BP: 133/43(63) {102/31(51) - 133/56(66)} mmHg
   RR: 12 (12 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 65 Inch
             Total In:
                                                                  2,026 mL
                                                                    384 mL
   PO:
             TF:
                                                                     75 mL
                                                                    230 mL
   IVF:
                                                                  1,736 mL
                                                                     94 mL
   Blood products:
   Total out:
                                                                  1,460 mL
                                                                    510 mL
   Urine:
                                                                  1,460 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    566 mL
                                                                   -126 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 70
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 6.3 L/min
   Physical Examination:
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube, prior trach site
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : R base > L)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   238 K/uL
   8.2 g/dL
   251 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.4 mEq/L
   35 mg/dL
   105 mEq/L
   138 mEq/L
   26.4 %
   12.3 K/uL
        [image002.jpg]
                             [**2182-5-3**]  07:51 PM
                             [**2182-5-4**]  04:11 AM
                             [**2182-5-4**]  05:39 AM
                             [**2182-5-5**]  03:01 AM
   WBC
   10.6
   12.3
   Hct
   26
   27.9
   26.4
   Plt
   253
   238
   Cr
   1.6
   1.2
   TCO2
   24
   27
   Glucose
   343
   251
   Other labs: PT / PTT / INR:13.3/29.9/1.1, ALT / AST:[**11-19**], Alk Phos / T
   Bili:72/0.3, Lactic Acid:0.9 mmol/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
   62 y/o M with complicated PMH including CAD, s/p vfib arrest, anoxic
   brain injury, DM, HTN, hx of aspiration and hx of TBM who presents to
   and OSH with respiratory failure requiring intubation.  Intubation was
   complicated by displacement of tracheal stent.  Now s/p rigid
   bronchoscopy with removal of stent.
   .
   # Hypoxic Respiratory Failure: likely secondary to an aspiration event
   with an aspiration pneumonia.  Was intubated and had complication with
   stent displacement.  Now stable on ventilator with good oxygenation and
   appropriate pressures.
   - continue AC, 60%, 550 x 18 x5 with pressure support trial and avoid
   hyperventilation
   - wean FiO2 as tolerated
   - wean sedation
   - repeat CXR in AM
   - f/u IP recs with plan for 3 days of intubation followed by
   replacement of stent on Monday
   - NPO after midnight tonight
   - steroids for airway inflammation as below
   - abx for pneumonia treatment as below
   - VBG this afternoon
   .
   # Stent Displacement: s/p rigid bronchoscopy with stent removal this
   evening.  Was likely a consequence of intubation.  Has stable airway
   now and reintubated.
   - decadron 10 mg [**Hospital1 **] x3 days
   - remain intubated with plan for stent replacement likely tomorrow
   - monitor PIPs/plateaus for signs of airway compromise
   .
   # Pneumonia: likely had aspiration event, with question of pneumonia as
   a result.  Distress was so acute that he likely just has pneumonitis
   but should be covered for hospital-acquired pathogens in the setting of
   respiratory failure.  Has beta-lactam allergy.
   - vanco, azithro, cefepime
   - consider add flagyl for anaerobic coverage because of
   immunosuppression
   - no signs of sepsis at this time
   .
   # ARF: Cr to 1.6 from a baseline of about 1.1-1.3.  Renal transplant
   aware of patient.  Likely fluid down in the setting of NPO and
   insensible losses today.
   - f/u urine lytes
   - f/u renal transplant team recs
   - hold enalapril
   - IVF bolus prn
   .
   # Immunesuppression (s/p renal transplant): is on chronic
   immunesuppression which puts him at risk of uncommon infections, no
   signs of fever or sepsis now.
   - continue cellcept, prograf
   - will continue prednisone once off decadron
   - check prograf levels in the AM
   - continue bactrim ppx
   .
   # DM: has labile blood sugars, high in the setting of abx in D5 and
   after getting steroids.
   - continue home lantus
   - sliding scale
   - consider insulin gtt if not well controlled overnight
   .
   # HTN: normotensive today
   - hold enalapril, monitor overnight
   - hold metoprolol
   .
   # CAD: EKG without changes, CEs flat on initial check, no signs of
   cardiogenic shock, no hx of chest pain.
   - continue aspirin
   - continue statin
   .
   # Hx of CVA: sedated, but moving all extremities
   - continue statin
   .
   # Dementia and s/p anoxic brain injury: sedated with fentanyl and
   versed.
   - hold home sedating psych meds while intubated
   - continue SSRI
   .
   # FEN: IVF, replete electrolytes, NPO after midnight, continue TF
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals, PICC possibly tomorrow
   # Communication: wife, daughter (phone numbers in chart)
   # Code:  Full (discussed with wife)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2182-5-4**] 07:00 PM 35 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2182-5-3**] 11:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Events: IP recommended extubation in the OR tomorrow or Tuesday.
   Unable to place PICC at bedside, scheduled for IR.
   Put back on A/C due to low minute ventilation in setting of receiving
   fentanyl / versed.
   VS notable for BP 102-31-133/56, RR12.  AC 550x10/5/50%.  I/O +500cc.
   ABG 7.35/47/135.  Lactate normal.
   Exam: opens eyes to voice.  RRR S1 S2.  Crackles B/L bases.  1+ edema.
   Labs: 26 <- 28 <- 32.  WBC up to 12 from 10.  Cr 1.2 from 1.6
   Meds: dex, fentanyl gtt, versed, cellcept, bactrim, sc heparin, vanc,
   azithro, cefepime, seroquel, metoprolol
   62M Russian speaking man with h/o CAD s/p vfib arrest anoxic brain
   injury, aspiration pna, renal failure s/p renal transplant,
   tracheobronchomalacia s/p stent, iddm admitted with respiratory failure
   most likely aspiration / pna, c/b stent migration s/p removed.  Agree
   with treatment for HAP, would change to PSV or at least titrate down
   A/C to allow for likely baseline hypoventilation.  Plan for extubation
   in OR in next 1-2 days.  Guaiac stools and recheck Hct later today for
   ?blood loss anemia d/t GI bleed.
   PICC will need to be done by IR.  Current access through EJ.  ABG x2
   (done after rounds) arterial.  Bedside ultrasound confirmed placement
   in EJ, possible it may be reflux from old AV fistula / graft in L arm
   as meds infusing without difficulty and high pressure, blood from IJ
   not pulsitile.  Regardless have 2^nd PIV placed on R, if working will
   d/c EJ; hope to avoid temporary IJ / SCL while awaiting PICC.
   Remainder of plan as above.
   Pt is critically ill: CC time 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) **], MD
   on:[**2182-5-5**] 17:33 ------

2182-05-06 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2182-5-6**] 03:15 AM
   Events [**2182-5-5**]:
   Pt maintained on CMV while awaiting OR on Monday. NPO after midnight
   for IP stent placement on Monday. HD stable. Awaiting PICC line
   placement. Had PIV placed. Noted to have arterial appearing VBG,
   concern that L IF was in artery. Later noted, that Pt has L AV fistula,
   leading to high oxygenation in VBG. Intermittently agitated requiring
   midaz boluses overnight.
   Allergies:
   Lasix (Oral) (Furosemide)
   Rash;
   Betalactams
   Rash;
   Haldol (Injection) (Haloperidol Lactate)
   Confusion/Delir
   Last dose of Antibiotics:
   Levofloxacin - [**2182-5-4**] 02:12 AM
   Metronidazole - [**2182-5-4**] 04:27 AM
   Vancomycin - [**2182-5-5**] 09:00 AM
   Cefipime - [**2182-5-5**] 03:25 PM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2182-5-5**] 07:44 AM
   Heparin Sodium (Prophylaxis) - [**2182-5-5**] 11:55 PM
   Midazolam (Versed) - [**2182-5-6**] 06:16 AM
   Fentanyl - [**2182-5-6**] 06:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-5-6**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**84**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 64 (56 - 99) bpm
   BP: 122/39(59) {109/35(56) - 145/104(109)} mmHg
   RR: 13 (8 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,952 mL
                                                                    322 mL
   PO:
             TF:
                                                                  1,063 mL
   IVF:
                                                                    629 mL
                                                                    292 mL
   Blood products:
   Total out:
                                                                  1,590 mL
                                                                    300 mL
   Urine:
                                                                  1,580 mL
                                                                    300 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                    362 mL
                                                                     22 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 600 (550 - 600) mL
   Vt (Spontaneous): 785 (589 - 785) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 8.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   263 K/uL
   8.4 g/dL
   206 mg/dL
   1.1 mg/dL
   26 mEq/L
   4.9 mEq/L
   41 mg/dL
   107 mEq/L
   141 mEq/L
   28.9 %
   12.0 K/uL
        [image002.jpg]
                             [**2182-5-3**]  07:51 PM
                             [**2182-5-4**]  04:11 AM
                             [**2182-5-4**]  05:39 AM
                             [**2182-5-5**]  03:01 AM
                             [**2182-5-5**]  02:54 PM
                             [**2182-5-6**]  02:11 AM
   WBC
   10.6
   12.3
   11.5
   12.0
   Hct
   26
   27.9
   26.4
   27.7
   28.9
   Plt
   [**Telephone/Fax (3) 11994**]63
   Cr
   1.6
   1.2
   1.1
   TCO2
   24
   27
   Glucose
   343
   251
   206
   Other labs: PT / PTT / INR:11.9/24.3/1.0, ALT / AST:[**11-19**], Alk Phos / T
   Bili:72/0.3, Lactic Acid:0.9 mmol/L, Ca++:8.7 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.7 mg/dL
   Assessment and Plan
   62 y/o M with complicated PMH including CAD, s/p vfib arrest, anoxic
   brain injury, DM, HTN, hx of aspiration and hx of TBM who presents to
   and OSH with respiratory failure requiring intubation.  Intubation was
   complicated by displacement of tracheal stent.  Now s/p rigid
   bronchoscopy with removal of stent.
   .
   # Hypoxic Respiratory Failure: likely secondary to an aspiration event
   with an aspiration pneumonia.  Was intubated and had complication with
   stent displacement.  Now stable on ventilator with good oxygenation and
   appropriate pressures.
   - continue AC, 60%, 550 x 18 x5 with pressure support trial and avoid
   hyperventilation
   - wean FiO2 as tolerated
   - wean sedation
   - repeat CXR in AM
   - f/u IP recs with plan for 3 days of intubation followed by
   replacement of stent on Monday
   - NPO after midnight tonight
   - steroids for airway inflammation as below
   - abx for pneumonia treatment as below
   - VBG this afternoon
   .
   # Stent Displacement: s/p rigid bronchoscopy with stent removal this
   evening.  Was likely a consequence of intubation.  Has stable airway
   now and reintubated.
   - decadron 10 mg [**Hospital1 **] x3 days
   - remain intubated with plan for stent replacement likely tomorrow
   - monitor PIPs/plateaus for signs of airway compromise
   .
   # Pneumonia: likely had aspiration event, with question of pneumonia as
   a result.  Distress was so acute that he likely just has pneumonitis
   but should be covered for hospital-acquired pathogens in the setting of
   respiratory failure.  Has beta-lactam allergy.
   - vanco, azithro, cefepime
   - consider add flagyl for anaerobic coverage because of
   immunosuppression
   - no signs of sepsis at this time
   .
   # ARF: Cr to 1.6 from a baseline of about 1.1-1.3.  Renal transplant
   aware of patient.  Likely fluid down in the setting of NPO and
   insensible losses today.
   - f/u urine lytes
   - f/u renal transplant team recs
   - hold enalapril
   - IVF bolus prn
   .
   # Immunesuppression (s/p renal transplant): is on chronic
   immunesuppression which puts him at risk of uncommon infections, no
   signs of fever or sepsis now.
   - continue cellcept, prograf
   - will continue prednisone once off decadron
   - check prograf levels in the AM
   - continue bactrim ppx
   .
   # DM: has labile blood sugars, high in the setting of abx in D5 and
   after getting steroids.
   - continue home lantus
   - sliding scale
   - consider insulin gtt if not well controlled overnight
   .
   # HTN: normotensive today
   - hold enalapril, monitor overnight
   - hold metoprolol
   .
   # CAD: EKG without changes, CEs flat on initial check, no signs of
   cardiogenic shock, no hx of chest pain.
   - continue aspirin
   - continue statin
   .
   # Hx of CVA: sedated, but moving all extremities
   - continue statin
   .
   # Dementia and s/p anoxic brain injury: sedated with fentanyl and
   versed.
   - hold home sedating psych meds while intubated
   - continue SSRI
   .
   # FEN: IVF, replete electrolytes, NPO after midnight, continue TF
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals, PICC possibly tomorrow
   # Communication: wife, daughter (phone numbers in chart)
   # Code:  Full (discussed with wife)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2182-5-3**] 11:56 PM
   22 Gauge - [**2182-5-5**] 08:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2182-05-07 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2182-5-6**]:
   Got trach placed in the OR. Started home dose prednisone. D/C
   azithromycin after negative legionella urinary antigen.
   Allergies:
   Lasix (Oral) (Furosemide)
   Rash;
   Betalactams
   Rash;
   Haldol (Injection) (Haloperidol Lactate)
   Confusion/Delir
   Last dose of Antibiotics:
   Cefipime - [**2182-5-5**] 03:25 PM
   Vancomycin - [**2182-5-6**] 07:49 PM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2182-5-6**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2182-5-6**] 08:00 AM
   Fentanyl - [**2182-5-7**] 02:28 AM
   Midazolam (Versed) - [**2182-5-7**] 03:59 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-5-7**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**84**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 83 (54 - 85) bpm
   BP: 125/38(58) {113/32(53) - 141/50(73)} mmHg
   RR: 10 (6 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,186 mL
                                                                    692 mL
   PO:
             TF:
             141 mL
   IVF:
                                                                  2,006 mL
                                                                    551 mL
   Blood products:
   Total out:
                                                                    980 mL
                                                                    360 mL
   Urine:
                                                                    980 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,206 mL
                                                                    332 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PSV/SBT
   Vt (Set): 677 (600 - 677) mL
   Vt (Spontaneous): 485 (485 - 885) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 35
   PIP: 28 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 5 L/min
   Physical Examination
   Labs / Radiology
   251 K/uL
   8.9 g/dL
   334 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.7 mEq/L
   42 mg/dL
   108 mEq/L
   142 mEq/L
   29.7 %
   8.7 K/uL
        [image002.jpg]
                             [**2182-5-3**]  07:51 PM
                             [**2182-5-4**]  04:11 AM
                             [**2182-5-4**]  05:39 AM
                             [**2182-5-5**]  03:01 AM
                             [**2182-5-5**]  02:54 PM
                             [**2182-5-6**]  02:11 AM
                             [**2182-5-7**]  02:46 AM
   WBC
   10.6
   12.3
   11.5
   12.0
   8.7
   Hct
   26
   27.9
   26.4
   27.7
   28.9
   29.7
   Plt
   [**Telephone/Fax (3) 11994**]63
   251
   Cr
   1.6
   1.2
   1.1
   1.2
   TCO2
   24
   27
   Glucose
   343
   251
   206
   334
   Other labs: PT / PTT / INR:11.9/25.3/1.0, ALT / AST:[**11-19**], Alk Phos / T
   Bili:72/0.3, Lactic Acid:0.9 mmol/L, Ca++:8.5 mg/dL, Mg++:2.7 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
   62 M with complicated PMH including CAD, s/p vfib arrest, anoxic brain
   injury, DM, HTN, hx of aspiration and hx of TBM who presents to an OSH
   with respiratory failure requiring intubation.  Intubation was
   complicated by displacement of tracheal stent.  Now s/p rigid
   bronchoscopy with removal of stent.
   .
   # Hypoxic Respiratory Failure: Likely secondary to an aspiration event
   with an aspiration pneumonia.  Was intubated and had complication with
   stent displacement. Stent removed by IP and tracheostomy placed. Now
   stable on ventilator with good oxygenation and appropriate pressures.
   - continue AC for now, will wean to PSV/trach mask
   - wean FiO2 as tolerated
   - wean sedation by stopping fentanyl drip. Will start clonazepam 0.5mg
   TID as well as morphine for pain control.
   - f/u IP recs
   - prn nebs
   - Steroids for airway inflammation as below
   - Continue abx for pneumonia as below
   .
   # Stent Displacement: Likely consequence of intubation, now s/p rigid
   bronchoscopy with stent removal.  Currently with tracheostomy, no stent
   placed at this time.
   - discuss need/duration of steroids with IP
   - monitor PIPs/plateaus for signs of airway compromise
   .
   # Pneumonia: likely had aspiration event, with question of pneumonia as
   a result.  Distress was so acute that he likely just has pneumonitis
   but should be covered for hospital-acquired pathogens in the setting of
   respiratory failure.  Has beta-lactam allergy.
   - continue vanco, cefepime for 8-10 days
   - f/u sputum studies
   - consider add flagyl for anaerobic coverage because of
   immunosuppression
   - no signs of sepsis at this time
   .
   # ARF: Cr to 1.6 from a baseline of about 1.1-1.3.  Renal transplant
   aware of patient.  Likely fluid down in the setting of NPO and
   insensible losses
 appears to be resolving with creatinine of 1.2
   - f/u urine lytes
   - f/u renal transplant team recs
   - hold enalapril
   - IVF bolus prn
   .
   # Immunosuppression (s/p renal transplant): is on chronic
   immunesuppression which puts him at risk of uncommon infections, no
   signs of fever or sepsis now.
   - continue cellcept, prograf
   - will continue prednisone once off decadron
   - check prograf levels in the AM
   - continue bactrim ppx (M/W/F)
   .
   # DM: has labile blood sugars, high in the setting of abx in D5 and
   after getting steroids.
   - continue home lantus
   - tighten sliding scale
   .
   # HTN: normotensive today
   - hold enalapril for now
   - Continue metoprolol with holding parameters
   .
   # CAD: EKG without changes, CEs flat on initial check, no signs of
   cardiogenic shock, no hx of chest pain.
   - continue aspirin
   - continue statin
   .
   # Hx of CVA: sedated, but moving all extremities
   - continue statin
   .
   # Dementia and s/p anoxic brain injury: sedated with fentanyl and
   versed.
   - will attempt to restart psych meds
   - continue SSRI
   .
   # FEN: IVF, replete electrolytes, NPO after midnight, continue TF
   Possible PEG placement vs small bore feeding tube
   # Prophylaxis: Subcutaneous heparin
   # Access: PICC line, PIV
   # Communication: wife, daughter (phone numbers in chart)
   # Code:  Full (discussed with wife)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2182-5-7**] 12:12 AM 25 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2182-5-3**] 11:56 PM
   22 Gauge - [**2182-5-5**] 08:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Physical exam:
   General: Pt opening eyes but not clearly oriented to voice. Unable to
   follow commands (in English). Patient quivering, but does not appear
   agitated.
   HEENT: Moist mucous membranes, tracheostomy tube in place
   CV: RRR, no m/r/g
   Lungs: Diffuse rhonchi bilaterally with some bibasilar crackles
   Abdomen: Less tense than on prior exam, no guarding. Trunk muscles are
   quivering (> limb muscles).  +NABS.
   Extremities: 2+ DP pulses bilaterally. Pneumoboots in place.
   ------ Protected Section Addendum Entered By:[**Name (NI) 4418**] [**Last Name (NamePattern1) 12007**], MD
   on:[**2182-5-7**] 13:57 ------

2182-05-08 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2182-5-7**] 10:00 AM
   Other events [**2182-5-7**]:
   - Patient continued to have periods of upper extremity contractions
   associated with diffuse diaphoresis not responsive to morphine, but
   resolve with versed.
   - Spontaneous breathing trial attempted currently
   Allergies:
   Lasix (Oral) (Furosemide)
   Rash;
   Betalactams
   Rash;
   Haldol (Injection) (Haloperidol Lactate)
   Confusion/Delir
   Last dose of Antibiotics:
   Cefipime - [**2182-5-7**] 05:00 PM
   Vancomycin - [**2182-5-7**] 08:35 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2182-5-7**] 08:50 AM
   Famotidine (Pepcid) - [**2182-5-7**] 01:30 PM
   Metoprolol - [**2182-5-7**] 01:30 PM
   Heparin Sodium (Prophylaxis) - [**2182-5-7**] 05:00 PM
   Morphine Sulfate - [**2182-5-8**] 12:58 AM
   Midazolam (Versed) - [**2182-5-8**] 05:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-5-8**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**84**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.3
C (99.1
   HR: 93 (61 - 93) bpm
   BP: 78/49(52) {78/21(31) - 215/182(172)} mmHg
   RR: 22 (7 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,433 mL
                                                                    480 mL
   PO:
             TF:
                                                                    654 mL
                                                                    407 mL
   IVF:
                                                                  1,389 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  1,222 mL
                                                                    460 mL
   Urine:
                                                                  1,222 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,211 mL
                                                                     20 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PSV/SBT
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 353 (353 - 647) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 59
   PIP: 19 cmH2O
   Plateau: 17 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 97%
   ABG: ////
   Ve: 6 L/min
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: crackles bases
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: warm, well perfused, 2+ pulses, trace dependent edema
   Labs / Radiology
   251 K/uL
   8.9 g/dL
   334 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.7 mEq/L
   42 mg/dL
   108 mEq/L
   142 mEq/L
   29.7 %
   8.7 K/uL
        [image002.jpg]
                             [**2182-5-3**]  07:51 PM
                             [**2182-5-4**]  04:11 AM
                             [**2182-5-4**]  05:39 AM
                             [**2182-5-5**]  03:01 AM
                             [**2182-5-5**]  02:54 PM
                             [**2182-5-6**]  02:11 AM
                             [**2182-5-7**]  02:46 AM
   WBC
   10.6
   12.3
   11.5
   12.0
   8.7
   Hct
   26
   27.9
   26.4
   27.7
   28.9
   29.7
   Plt
   [**Telephone/Fax (3) 11994**]63
   251
   Cr
   1.6
   1.2
   1.1
   1.2
   TCO2
   24
   27
   Glucose
   343
   251
   206
   334
   Other labs: PT / PTT / INR:11.9/25.3/1.0, ALT / AST:[**11-19**], Alk Phos / T
   Bili:72/0.3, Lactic Acid:0.9 mmol/L, Ca++:8.5 mg/dL, Mg++:2.7 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
   62 M with complicated PMH including CAD, s/p vfib arrest, anoxic brain
   injury, DM, HTN, hx of aspiration and hx of TBM who presents to an OSH
   with respiratory failure requiring intubation.  Intubation was
   complicated by displacement of tracheal stent.  Now s/p rigid
   bronchoscopy with removal of stent.
   .
   # Hypoxic Respiratory Failure: Likely secondary to an aspiration event
   with an aspiration pneumonia.  Was intubated and had complication with
   stent displacement. Stent removed by IP and tracheostomy placed. Had
   been on ventilator with good oxygenation and appropriate pressures and
   this morning tolerating trach mask.
   - check VBG this AM
   - coordinate with IP
   - prn nebs
   - Steroids for airway inflammation as below (back on baseline dose
   prednisone)
   - Continue abx for pneumonia as below
   # Convulsions/diaphoresis: Patient continues to have several episodes
   daily. Versed has helped.
   - Continue clonazepam 0.5mg TID as well as morphine for pain control.
   - consider ativan if and if no benefit versed
   - Continue home psych meds
   - OOB, transition to chair
   .
   # Stent Displacement: Likely consequence of intubation, now s/p rigid
   bronchoscopy with stent removal.  Currently with tracheostomy, no stent
   placed at this time. Will likely need repeat stent placement at some
   point in the future.
   .
   # Pneumonia: likely had aspiration event, with question of pneumonia as
   a result.  Distress was so acute that he likely just has pneumonitis
   but should be covered for hospital-acquired pathogens in the setting of
   respiratory failure.  Has beta-lactam allergy.
   - continue vanco, cefepime for 10 days (today = day #5)
   - f/u sputum studies
   - consider add flagyl for anaerobic coverage because of
   immunosuppression
   - no signs of sepsis at this time
   .
   # ARF: Cr to 1.6 from a baseline of about 1.1-1.3.  Renal transplant
   aware of patient.  Improved with IVF Likely with creatinine of 1.2.
   Today clinically volume up.
   - f/u renal transplant team recs
   - hold enalapril
   - consider diuretic
   .
   # Immunosuppression (s/p renal transplant): is on chronic
   immunesuppression which puts him at risk of uncommon infections, no
   signs of fever or sepsis now.
   - continue cellcept, prograf
   - will continue prednisone once off decadron
   - check prograf levels
   - continue bactrim ppx (M/W/F)
   .
   # DM: has labile blood sugars, high in the setting of abx in D5 and
   after getting steroids.
   - continue home lantus
   - tighten sliding scale
   .
   # HTN: normotensive today
   - hold enalapril for now
   - Continue metoprolol with holding parameters
   .
   # CAD: EKG without changes, CEs flat on initial check, no signs of
   cardiogenic shock, no hx of chest pain.
   - continue aspirin
   - continue statin
   .
   # Hx of CVA: sedated, but moving all extremities
   - continue statin
   .
   # Dementia and s/p anoxic brain injury: sedated with fentanyl and
   versed.
   - will attempt to restart psych meds
   - continue SSRI
   .
   # FEN: IVF, nutrition consult for TF, replete electrolytes
   Dophoff tube placement
   # Prophylaxis: Subcutaneous heparin
   # Access: PICC line, PIV
   # Communication: wife, daughter (phone numbers in chart)
   # Code:  Full (discussed with wife)
   # Disposition: ICU pending clinical improvement
 plan for likely rehab
   following discharge
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2182-5-7**] 12:12 AM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2182-5-7**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2182-05-09 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Weaned from ventillator for ~6 hours, but patient tachypneic and
   appeared uncomfortable so restarted on CPAP. Continues to have episodes
   of muscle contractions which seem helped by Versed. Written for Q2H
   albuterol nebs as develops wheezing with episodes. Plan for IR to place
   Dobhoff in the AM. [**Hospital 12**] Rehab (family preference) has no Medicaid bed
   availability at this time. Continues hyperglycemic on TF; Lantus and
   ISS uptitrated.
   Allergies:
   Lasix (Oral) (Furosemide)
   Rash;
   Betalactams
   Rash;
   Haldol (Injection) (Haloperidol Lactate)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2182-5-8**] 12:09 PM
   Cefipime - [**2182-5-8**] 04:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2182-5-8**] 07:30 AM
   Midazolam (Versed) - [**2182-5-8**] 08:15 AM
   Lorazepam (Ativan) - [**2182-5-8**] 06:00 PM
   Morphine Sulfate - [**2182-5-8**] 07:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unchanged.
   Flowsheet Data as of  [**2182-5-9**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**84**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.1
C (98.8
   HR: 71 (64 - 99) bpm
   BP: 150/58(82) {125/32(58) - 184/129(142)} mmHg
   RR: 16 (12 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.6 kg (admission): 65.7 kg
   Height: 65 Inch
             Total In:
                                                                  2,156 mL
                                                                    548 mL
   PO:
             TF:
                                                                  1,496 mL
                                                                    475 mL
   IVF:
                                                                    540 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  3,050 mL
                                                                    505 mL
   Urine:
                                                                  3,050 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -894 mL
                                                                     43 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 431 (431 - 431) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 36
   PIP: 12 cmH2O
   SpO2: 100%
   ABG:
   Ve: 6.8 L/min
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: crackles bases
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: warm, well perfused, 2+ pulses, trace dependent edema
   Labs / Radiology
   198 K/uL
   8.8 g/dL
   386 mg/dL
   1.0 mg/dL
   29 mEq/L
   4.3 mEq/L
   31 mg/dL
   103 mEq/L
   144 mEq/L
   30.3 %
   8.2 K/uL
        [image002.jpg]
                             [**2182-5-3**]  07:51 PM
                             [**2182-5-4**]  04:11 AM
                             [**2182-5-4**]  05:39 AM
                             [**2182-5-5**]  03:01 AM
                             [**2182-5-5**]  02:54 PM
                             [**2182-5-6**]  02:11 AM
                             [**2182-5-7**]  02:46 AM
                             [**2182-5-8**]  06:00 AM
                             [**2182-5-9**]  05:24 AM
   WBC
   10.6
   12.3
   11.5
   12.0
   8.7
   8.1
   8.2
   Hct
   26
   27.9
   26.4
   27.7
   28.9
   29.7
   31.3
   30.3
   Plt
   [**Telephone/Fax (3) 11994**]63
   251
   216
   198
   Cr
   1.6
   1.2
   1.1
   1.2
   1.1
   1.0
   TCO2
   24
   27
   Glucose
   343
   251
   206
   [**Telephone/Fax (3) 12023**]
   Other labs: PT / PTT / INR:11.6/33.7/1.0, ALT / AST:[**11-19**], Alk Phos / T
   Bili:72/0.3, Differential-Neuts:87.0 %, Lymph:6.5 %, Mono:4.7 %,
   Eos:1.7 %, Lactic Acid:0.9 mmol/L, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.8 mg/dL
   Assessment and Plan
   62 M with complicated PMH including CAD, s/p vfib arrest, anoxic brain
   injury, DM, HTN, hx of aspiration and hx of TBM who presents to an OSH
   with respiratory failure requiring intubation.  Intubation was
   complicated by displacement of tracheal stent.  Now s/p rigid
   bronchoscopy with removal of stent.
   .
   # Hypoxic Respiratory Failure: Likely secondary to an aspiration event
   with an aspiration pneumonia.  Was intubated and had complication with
   stent displacement. Stent removed by IP and tracheostomy placed. Had
   been on ventilator with good oxygenation and appropriate pressures and
   yesterday tolerated trach mask for only 6 hours.
   - SBT this morning and if patient does well, attempt trach mask again
   today
   - coordinate with IP
   - prn nebs
   - Steroids for airway inflammation as below (back on baseline dose
   prednisone)
   - Continue abx for pneumonia as below
   .
   # Convulsions/diaphoresis: Patient continues to have several episodes
   daily. Versed has helped.
   - Continue clonazepam 0.5mg TID as well as morphine for pain control.
   - continue ativan 0.5-2mg IV q 4 hours PRN agitation
   - Continue home psych meds
   - OOB, transition to chair
   .
   # Stent Displacement: Likely consequence of intubation, now s/p rigid
   bronchoscopy with stent removal.  Currently with tracheostomy, no stent
   placed at this time. Will likely need repeat stent placement at some
   point in the future but needs to be medically optimized prior to that.
   .
   # Pneumonia: likely had aspiration event, with question of pneumonia as
   a result.  Distress was so acute that he likely just has pneumonitis
   but should be covered for hospital-acquired pathogens in the setting of
   respiratory failure.  Has beta-lactam allergy.
   - continue vanco, cefepime for 10 days (today = day #6)
   - f/u sputum studies
   - consider add flagyl for anaerobic coverage because of
   immunosuppression
   - no signs of sepsis at this time
   .
   # ARF: Cr initially to 1.6 from a baseline of about 1.1-1.3.  Renal
   transplant aware of patient.  Improved with IVF Likely with creatinine
   of 1.0. Today clinically volume up.
   - f/u renal transplant team recs
   - hold enalapril
   .
   # Immunosuppression (s/p renal transplant): is on chronic
   immunosuppression which puts him at risk of uncommon infections, no
   signs of fever or sepsis now.
   - continue cellcept, prograf
   - will continue prednisone once off decadron
   - check prograf levels; dose increased yesterday after program levels
   found to be subtherapeutic (goal tacrol level [**4-11**])
   - continue bactrim ppx (M/W/F)
   .
   # DM: has labile blood sugars, high in the setting of abx in D5 and
   after getting steroids.  Blood sugars continue to be elevated despite
   increase in lantus and ISS.
   - increase lantus
   - tighten sliding scale
   .
   # HTN: normotensive today
   - hold enalapril for now
   - Continue metoprolol with holding parameters
   .
   # CAD: EKG without changes, CEs flat on initial check, no signs of
   cardiogenic shock, no hx of chest pain.
   - continue aspirin
   - continue statin
   .
   # Hx of CVA: sedated, but moving all extremities
   - continue statin
   .
   # Dementia and s/p anoxic brain injury: sedated with fentanyl and
   versed.
   - will attempt to restart psych meds
   - continue SSRI
   .
   # FEN: IVF, hold TFs pending IR procedure, replete electrolytes
   Dophoff tube placement today in IR
   # Prophylaxis: Subcutaneous heparin
   # Access: PICC line, PIV
   # Communication: wife, daughter (phone numbers in chart)
   # Code:  Full (discussed with wife)
   # Disposition: ICU pending clinical improvement
 plan for likely rehab
   following discharge
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2182-5-8**] 01:58 PM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2182-5-7**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2182-05-10 06:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Tolerated trach mask overnight
   - Dophoff tube placed, tube feeds started
   - Renal recs: bumex 1mg (given at 10pm), check tacro level in AM
   - restarted enalapril
   - Being screened for placement at facility in [**Location (un) 109**]
   Allergies:
   Lasix (Oral) (Furosemide)
   Rash;
   Betalactams
   Rash;
   Haldol (Injection) (Haloperidol Lactate)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2182-5-9**] 10:00 AM
   Cefipime - [**2182-5-9**] 02:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2182-5-9**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-5-10**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**84**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (99
   HR: 80 (60 - 81) bpm
   BP: 165/53(84) {108/39(56) - 188/108(115)} mmHg
   RR: 20 (16 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.6 kg (admission): 65.7 kg
   Height: 65 Inch
             Total In:
                                                                  2,190 mL
                                                                    535 mL
   PO:
             TF:
                                                                  1,560 mL
                                                                    438 mL
   IVF:
                                                                    540 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  1,415 mL
                                                                  1,300 mL
   Urine:
                                                                  1,415 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    775 mL
                                                                   -765 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 560 (556 - 560) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 99%
   Ve: 11.4 L/min
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: crackles bases
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: warm, well perfused, 2+ pulses, trace dependent edema
   Labs / Radiology
   226 K/uL
   9.3 g/dL
   243 mg/dL
   1.0 mg/dL
   36 mEq/L
   3.8 mEq/L
   32 mg/dL
   103 mEq/L
   145 mEq/L
   31.4 %
   9.0 K/uL
        [image002.jpg]
                             [**2182-5-3**]  07:51 PM
                             [**2182-5-4**]  04:11 AM
                             [**2182-5-4**]  05:39 AM
                             [**2182-5-5**]  03:01 AM
                             [**2182-5-5**]  02:54 PM
                             [**2182-5-6**]  02:11 AM
                             [**2182-5-7**]  02:46 AM
                             [**2182-5-8**]  06:00 AM
                             [**2182-5-9**]  05:24 AM
                             [**2182-5-10**]  05:25 AM
   WBC
   10.6
   12.3
   11.5
   12.0
   8.7
   8.1
   8.2
   9.0
   Hct
   26
   27.9
   26.4
   27.7
   28.9
   29.7
   31.3
   30.3
   31.4
   Plt
   [**Telephone/Fax (3) 11994**]63
   [**Telephone/Fax (2) 12027**]26
   Cr
   1.6
   1.2
   1.1
   1.2
   1.1
   1.0
   1.0
   TCO2
   24
   27
   Glucose
   343
   251
   206
   [**Telephone/Fax (3) 12023**]
   243
   Other labs: PT / PTT / INR:11 N: 87% L: 4  E: 6.2   Lactic Acid:0.9
   mmol/L,  Ca++:9.1 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
    BS: 293   108   123   260
   CXR
   CHEST, AP: Dobbhoff tube has been advanced to the stomach. Other
   monitoring
   and support devices are unchanged in course and position. Airspace
   opacities
   in the lingula and left lower lobe have improved. Mild interstitial
   edema and
   cardiomegaly persist. There is no pneumothorax.
   IMPRESSION: Dobbhoff tube in place. Improvement in left basilar
   aspiration.
   Assessment and Plan
 62 M with complicated PMH including CAD, s/p vfib arrest, anoxic
   brain injury, DM, HTN, hx of aspiration and hx of TBM who presents to
   an OSH with respiratory failure requiring intubation.  Intubation was
   complicated by displacement of tracheal stent.  Now s/p rigid
   bronchoscopy with removal of stent.
   .
   # Hypoxic Respiratory Failure: Likely secondary to an aspiration event
   with aspiration pneumonia.  Was intubated and had complication with
   stent displacement. Stent removed by IP and tracheostomy placed.
   Transitioned from endotracheal intubation to trach mask, tolerating
   well.
   - prn nebs
   - Continue abx for pneumonia as below
   - check VBG
   .
   # Convulsions/diaphoresis:  Improved with anxiolytic medication.
   - Continue clonazepam 0.5mg TID as well as morphine for pain control.
   - continue ativan 0.5-2mg IV q 4 hours PRN agitation
   - Continue home psych meds
   - OOB, transition to chair
   .
   # Volume overload: Clinically appears closer to euvolemia this AM.
   Good response to bumex overnight.
   - monitor I/O, daily weights
   - bumex [**Hospital1 **]  now with goal TBB negative 500ml
   - Check PM lytes
   .
   # Stent Displacement: Likely consequence of intubation, now s/p rigid
   bronchoscopy with stent removal.  Currently with tracheostomy, no stent
   placed at this time. Will likely need repeat stent placement at some
   point in the future but needs to be medically optimized prior to this.
   - IP signing off for now.
   .
   # Pneumonia: likely had aspiration event, with question of pneumonia as
   a result.  Distress was so acute that he likely just has pneumonitis
   but should be covered for hospital-acquired pathogens in the setting of
   resp failure.  Has beta-lactam allergy.
   - continue vanco, cefepime for 10 days (today = day #8)
   - f/u sputum studies
   - consider add flagyl for anaerobic coverage because of
   immunosuppression
   - no signs of sepsis at this time
   .
   # Eosinophilia
 eosinophilia noted on today
s labs.
   - monitor daily. Will d/c antibiotics if persistently elevated.
   .
   # ARF: Cr initially to 1.6  (baseline of 1.1-1.3)  Improved with and
   currently at baseline
   - f/u renal transplant team recs
   .
   # Immunosuppression (s/p renal transplant): is on chronic
   immunosuppression which puts him at risk of uncommon infections, no
   signs of fever or sepsis now.
   - continue cellcept, prograf
   - will continue prednisone once off decadron
   - check prograf level this AM; was  uptitrated on [**5-8**] after found to
   be subtherapeutic (goal tacrol level [**4-11**])
   - continue bactrim ppx (M/W/F)
   .
   # DM: has labile blood sugars, high in the setting of abx in D5 and
   after getting steroids.  Blood sugars better controlled but continue to
   be elevated despite increase in lantus and ISS.
   - continue lantus at 27
   - tighten sliding scale prn
   .
   # HTN: normotensive today
   - continue enalapril at home dose with holding parameters
   - continue metoprolol at home dose with holding parameters
   .
   # CAD: EKG without changes, CEs flat on initial check, no signs of
   cardiogenic shock, no hx of chest pain.
   - continue aspirin
   - continue statin
   .
   # Hx of CVA: sedated, but moving all extremities
   - continue statin
   .
   # Dementia and s/p anoxic brain injury: sedated with fentanyl and
   versed.
   - will attempt to restart psych meds
   - continue SSRI
   .
   # FEN: IVF, tube feeds, replete electrolytes
   # Prophylaxis: Subcutaneous heparin, H2 blocker.
   - transition to PO lansoprazole
   # Access: PICC line, PIV
   # Communication: wife, daughter (phone numbers in chart)
   # Code:  Full (discussed with wife)
   # Disposition: ICU for now  - Currently being screened for rehab
   placement
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2182-5-9**] 01:01 PM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2182-5-7**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2182-05-11 07:03:00 Physician Resident Progress Note
Chief Complaint: pneumonia
   24 Hour Events:
   Short runs of VT x 2. Full labs and cardiac enzymes sent (troponin
   elevated to > 0.1).  EKG without any changes.
   Sputum [**2182-5-10**]:
GRAM STAIN (Final [**2182-5-10**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   YEAST(S).
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI IN PAIRS
   Allergies:
   Lasix (Oral) (Furosemide)
   Rash;
   Betalactams
   Rash;
   Haldol (Injection) (Haloperidol Lactate)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2182-5-10**] 08:03 AM
   Cefipime - [**2182-5-10**] 04:16 PM
   Metronidazole - [**2182-5-10**] 06:44 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2182-5-10**] 08:03 AM
   Lorazepam (Ativan) - [**2182-5-10**] 04:16 PM
   Morphine Sulfate - [**2182-5-10**] 05:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unchanged
   Flowsheet Data as of  [**2182-5-11**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**84**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.4
C (97.5
   HR: 63 (58 - 82) bpm
   BP: 138/73(85) {94/48(59) - 180/136(147)} mmHg
   RR: 18 (11 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.6 kg (admission): 65.7 kg
   Height: 65 Inch
                  Total In:
                                                                  2,811 mL
                                                                    551 mL
   PO:
                  TF:
                                                                  1,561 mL
                                                                    451 mL
   IVF:
                                                                    600 mL
   Blood products:
   Total out:
                                                                  2,460 mL
                                                                    730 mL
   Urine:
                                                                  2,460 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    351 mL
                                                                   -179 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: 7.41/60/35/40/10
   PaO2 / FiO2: 100
   Physical Examination
   General: Not opening eyes to voice at this time, appears
   comfortable/sedated
   HEENT: trach mask in place, mmm
   CV: Heart sounds difficult to hear given loud rhonchorous breath
   sounds, but regular
   Lungs: Diffuse coarse rhonchi
   Abdomen: Firm, no obvious tenderness, +BS
   Extremities: edema b/l, palp DP pulses
   Labs / Radiology
   273 K/uL
   9.4 g/dL
   226 mg/dL
   1.2 mg/dL
   40 mEq/L
   4.2 mEq/L
   43 mg/dL
   100 mEq/L
   147 mEq/L
   31.6 %
   8.0 K/uL
        [image002.jpg]
                             [**2182-5-5**]  02:54 PM
                             [**2182-5-6**]  02:11 AM
                             [**2182-5-7**]  02:46 AM
                             [**2182-5-8**]  06:00 AM
                             [**2182-5-9**]  05:24 AM
                             [**2182-5-10**]  05:25 AM
                             [**2182-5-10**]  12:52 PM
                             [**2182-5-10**]  01:06 PM
                             [**2182-5-10**]  10:53 PM
                             [**2182-5-11**]  04:38 AM
   WBC
   11.5
   12.0
   8.7
   8.1
   8.2
   9.0
   8.0
   Hct
   27.7
   28.9
   29.7
   31.3
   30.3
   31.4
   31.6
   Plt
   233
   263
   251
   [**Telephone/Fax (3) 12036**]
   273
   Cr
   1.1
   1.2
   1.1
   1.0
   1.0
   1.1
   1.2
   TropT
   0.11
   0.14
   0.15
   TCO2
   39
   Glucose
   [**Telephone/Fax (2) 12037**]
   226
   Other labs: PT / PTT / INR:11.5/32.0/1.0, CK / CKMB /
   Troponin-T:64//0.15, ALT / AST:[**11-19**], Alk Phos / T Bili:72/0.3,
   Differential-Neuts:84.0 %, Lymph:5.7 %, Mono:4.5 %, Eos:5.7 %, Lactic
   Acid:0.9 mmol/L, Ca++:9.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 62 M with complicated PMH including CAD, s/p vfib arrest, anoxic
   brain injury, DM, HTN, hx of aspiration and hx of TBM who presents to
   an OSH with respiratory failure requiring intubation.  Intubation was
   complicated by displacement of tracheal stent.  Now s/p rigid
   bronchoscopy with removal of stent.
   .
   # Hypoxic Respiratory Failure: Likely secondary to an aspiration event
   with aspiration pneumonia.  Was intubated and had complication with
   stent displacement. Stent removed by IP and tracheostomy placed.
   Transitioned from endotracheal intubation to trach mask, tolerating
   well. Over last 24 hours, CXR has showed increased markings consistent
   with edema/infiltrate. Despite Bumex, net fluid balance from [**5-10**] is
   positive. Sputum gram stain from [**5-10**] with yeast and GPC in pairs.
   - PRN nebs
   - Continue abx for pneumonia as below
 trend sputum cx
   - Bumex 1 mg IV BID x 48 hours
   # Brief runs of VT: Possibly secondary to hypoxia. Have been
   self-limited thus far. Baseline EKG without changes.
   - Continue to monitor
   # Troponin leak: Given trop < 0.01 on [**5-3**], suspect that elevation does
   represent demand ischemia. However, CKs have been WNL suggesting that
   this leak likely occurred prior to enzyme check yesterday.
   - Trend enzymes until troponins peak
   - Re-check EKG today
   # Pneumonia: likely had aspiration event, with question of pneumonia as
   a result.  Distress was so acute that he was felt to likely just have
   pneumonitis but was covered for hospital-acquired pathogens in the
   setting of resp failure.  Has beta-lactam allergy. Now sputum with GPC
   in pairs and yeast from [**5-10**]
   - continue vanco, cefepime for 10 days (today = day #9)
 consider
   lengthening course in setting of new sputum results
   - F/u sputum culture with sensitivities
   - consider add flagyl for anaerobic coverage because of
   immunosuppression
   - no signs of sepsis at this time
   .
   # Convulsions/diaphoresis:  Improved with anxiolytic medication.
   - Continue clonazepam 0.5mg TID as well as morphine for pain control.
   - continue ativan 0.5-2mg IV q 4 hours PRN agitation
   - Continue home psych meds
   - OOB, transition to chair
   .
   # Volume overload: Clinically appears closer to euvolemia this AM.
   Good response to bumex overnight.
   - monitor I/O, daily weights
   - Continue Bumex [**Hospital1 **]  now with goal TBB negative 500ml
   - Check PM lytes
   .
   # Stent Displacement: Likely consequence of intubation, now s/p rigid
   bronchoscopy with stent removal.  Currently with tracheostomy, no stent
   placed at this time. Will likely need repeat stent placement at some
   point in the future but needs to be medically optimized prior to this.
   - IP signing off for now.
   .
   # Eosinophilia
 eosinophilia noted on today
s labs, ~unchanged from
   yesterday.
   - monitor daily. Will d/c or change antibiotics if persistently
   elevated.
   .
   # ARF: Cr initially to 1.6  (baseline of 1.1-1.3)  Improved with and
   currently at baseline
   - f/u renal transplant team recs
   .
   # Immunosuppression (s/p renal transplant): is on chronic
   immunosuppression which puts him at risk of uncommon infections, no
   signs of fever or sepsis now.
   - continue cellcept, prograf
   - will continue prednisone once off decadron
   - check prograf level this AM; was  uptitrated on [**5-8**] after found to
   be subtherapeutic (goal tacrol level [**4-11**])
   - continue bactrim ppx (M/W/F)
   .
   # DM: has labile blood sugars, high in the setting of abx in D5 and
   after getting steroids.  Blood sugars better controlled but continue to
   be elevated despite increase in lantus and ISS.
   - continue lantus at 27
   - tighten sliding scale prn
   .
   # HTN: normotensive today
   - continue enalapril at home dose with holding parameters
   - continue metoprolol at home dose with holding parameters
   .
   # CAD: EKG without changes, CEs flat on initial check, no signs of
   cardiogenic shock, no hx of chest pain.
   - continue aspirin
   - continue statin
   .
   # Hx of CVA: sedated, but moving all extremities
   - continue statin
   .
   # Dementia and s/p anoxic brain injury: sedated with fentanyl and
   versed.
   - will attempt to restart psych meds
   - continue SSRI
   .
   # FEN: IVF, tube feeds, replete electrolytes
   # Prophylaxis: Subcutaneous heparin, H2 blocker.
   - transition to PO lansoprazole
   # Access: PICC line, PIV
   # Communication: wife, daughter (phone numbers in chart)
   # Code:  Full (discussed with wife)
   # Disposition: Call out to Floor
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2182-5-11**] 12:15 AM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2182-5-7**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2182-05-12 06:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   [**2182-5-11**] events:
   - Renal recs: increase free water flushes to 250 ml Q6h given Na of 147
   - Tacro level returned 7.2 so likely will need dose adjustment tomorrow
   to achieve goal [**4-11**] (will wait for renal recs re: dosing)
   - Vanco stopped; ipratropium bromide nebs written Q6h
   - Called out to floor but no bed
   Allergies:
   Lasix (Oral) (Furosemide)
   Rash;
   Betalactams
   Rash;
   Haldol (Injection) (Haloperidol Lactate)
   Confusion/Delir
   Last dose of Antibiotics:
   Cefipime - [**2182-5-10**] 04:16 PM
   Metronidazole - [**2182-5-10**] 06:44 PM
   Vancomycin - [**2182-5-11**] 08:25 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2182-5-11**] 05:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-5-12**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**84**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.3
   HR: 59 (56 - 75) bpm
   BP: 150/39(62) {86/34(60) - 181/103(108)} mmHg
   RR: 12 (12 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 63.6 kg (admission): 65.7 kg
   Height: 65 Inch
                  Total In:
                                                                  2,541 mL
                                                                    502 mL
   PO:
                  TF:
                                                                  1,561 mL
                                                                    392 mL
   IVF:
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,507 mL
                                                                    485 mL
   Urine:
                                                                  1,507 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,034 mL
                                                                     17 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: ///37/
   Physical Examination
   General: Not opening eyes to voice at this time, appears
   comfortable/sedated
   HEENT: trach mask in place, mmm
   CV: Heart sounds regular
   Lungs: Diffuse coarse rhonchi, improved since yesterday
   Abdomen: Firm, no obvious tenderness, +BS
   Extremities: edema b/l, palp DP pulses
   Labs / Radiology
   234 K/uL
   9.1 g/dL
   250 mg/dL
   1.2 mg/dL
   37 mEq/L
   3.7 mEq/L
   54 mg/dL
   99 mEq/L
   143 mEq/L
   30.1 %
   5.5 K/uL
        [image002.jpg]
                             [**2182-5-7**]  02:46 AM
                             [**2182-5-8**]  06:00 AM
                             [**2182-5-9**]  05:24 AM
                             [**2182-5-10**]  05:25 AM
                             [**2182-5-10**]  12:52 PM
                             [**2182-5-10**]  01:06 PM
                             [**2182-5-10**]  10:53 PM
                             [**2182-5-11**]  04:38 AM
                             [**2182-5-11**]  10:18 PM
                             [**2182-5-12**]  03:24 AM
   WBC
   8.7
   8.1
   8.2
   9.0
   8.0
   5.5
   Hct
   29.7
   31.3
   30.3
   31.4
   31.6
   30.1
   Plt
   [**Telephone/Fax (3) 12043**]
   Cr
   1.2
   1.1
   1.0
   1.0
   1.1
   1.2
   1.2
   1.2
   TropT
   0.11
   0.14
   0.15
   0.14
   TCO2
   39
   Glucose
   [**Telephone/Fax (3) **]43
   232
   226
   250
   Other labs: PT / PTT / INR:11.6/37.3/1.0, CK / CKMB /
   Troponin-T:63//0.14, ALT / AST:[**11-19**], Alk Phos / T Bili:72/0.3,
   Differential-Neuts:79.5 %, Lymph:9.0 %, Mono:5.8 %, Eos:5.6 %, Lactic
   Acid:0.9 mmol/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   62 M with complicated PMH including CAD, s/p vfib arrest, anoxic brain
   injury, DM, HTN, hx of aspiration and hx of TBM who presents to an OSH
   with respiratory failure requiring intubation.  Intubation was
   complicated by displacement of tracheal stent.  Now s/p rigid
   bronchoscopy with removal of stent.
   .
   # Hypoxic Respiratory Failure: Likely secondary to an aspiration event
   with aspiration pneumonia.  Was intubated and had complication with
   stent displacement. Stent removed by IP and tracheostomy placed.
   Transitioned from endotracheal intubation to trach mask, tolerating
   well. Over last 24 hours, CXR has showed increased markings consistent
   with edema/infiltrate. Despite Bumex, net fluid balance from [**5-10**] is
   positive. Sputum gram stain from [**5-10**] with yeast and GPC in pairs.
   - PRN nebs
   - all abx stopped yesterday, completed HAP with aspiration coverge
   course
   - Trend UOP
   - Bumex 1 mg IV BID PRN for fluid overload
   .
   # Volume overload: has had decreased UOP and was about 1 L positive
   yesterday, although seems euvolemic to dry intravascularly on exam
   because of insensible losses.  Sweats profusely during the day.
   - monitor I/O, daily weights
   - Continue Bumex [**Hospital1 **] PRN  now with goal TBB negative 500ml
   - Check PM lytes
   # Brief runs of VT on [**5-10**]: Possibly secondary to hypoxia. Have been
   self-limited thus far. Baseline EKG without changes. No further
   episodes.
   - Continue to monitor
   # Troponin leak: Given trop < 0.01 on [**5-3**], suspect that elevation does
   represent demand ischemia. However, CKs have been WNL suggesting that
   this leak likely occurred prior to enzyme check yesterday. CK, CK-MB
   remain flat, troponin 0.14 ha plateaued.
   - Continue to monitor
   # Pneumonia: likely had aspiration event, with question of pneumonia as
   a result.  Distress was so acute that he was felt to likely just have
   pneumonitis but was covered for hospital-acquired pathogens in the
   setting of resp failure.  Has beta-lactam allergy. Now sputum with GPC
   in pairs and yeast from [**5-10**]
   - continue cefepime for 10 days (today = day #9)
 consider lengthening
   course in setting of new sputum results
   - F/u sputum culture with sensitivities
   - no signs of sepsis at this time
   .
   # Convulsions/diaphoresis, neurologic status:  Convulsions improved
   with anxiolytic medication. However, patient has now been off of Ativan
   for 24 hours without improvement in mental status. He is far from
   baseline of interacting, feeding self, etc. per daughter.
   - Continue clonazepam 0.5mg TID as well as morphine for pain control.
   - continue ativan 0.5-2mg IV q 4 hours PRN agitation
   - Continue home psych meds
   - Consider repeat head imaging
   .
   # Stent Displacement: Likely consequence of intubation, now s/p rigid
   bronchoscopy with stent removal.  Currently with tracheostomy, no stent
   placed at this time. Will likely need repeat stent placement at some
   point in the future but needs to be medically optimized prior to this.
   - IP signing off for now.
   .
   # Eosinophilia
 eosinophilia noted on today
s labs, ~unchanged from
   yesterday.
   - monitor daily. Will d/c or change antibiotics if persistently
   elevated.
   # Hypernatremia. Corrected with increase in free water flushes
   yesterday.
   - Continue 250 cc free water flush through NGT Q6H
   .
   # ARF: Cr initially to 1.6  (baseline of 1.1-1.3)  Improved and
   currently at baseline
   - f/u renal transplant team recs
   .
   # Immunosuppression (s/p renal transplant): is on chronic
   immunosuppression which puts him at risk of uncommon infections, no
   signs of fever or sepsis now.
   - continue cellcept, prograf
   - will continue prednisone once off decadron
   - check prograf level this AM; was  uptitrated on [**5-8**] after found to
   be subtherapeutic (goal tacrol level [**4-11**])
   - continue bactrim ppx (M/W/F)
   .
   # DM: has labile blood sugars, high in the setting of abx in D5 and
   after getting steroids.  Blood sugars better controlled but continue to
   be elevated despite increase in lantus and ISS.  AM glucose 250, but
   prior FS in 100s. Will continue to monitor.
   - continue lantus at 27
   - tighten sliding scale prn
   .
   # HTN: normotensive today, few high readings yesterday AM.
   - continue enalapril at home dose with holding parameters
   - continue metoprolol at home dose with holding parameters
   .
   # CAD: EKG without changes, CEs flat on initial check, no signs of
   cardiogenic shock, no hx of chest pain.
   - continue aspirin
   - continue statin
   .
   # Hx of CVA: sedated, but moving all extremities
   - continue statin
   .
   # Dementia and s/p anoxic brain injury: sedated with fentanyl and
   versed.
   - will attempt to restart psych meds
   - continue SSRI
   .
   # FEN: IVF, tube feeds, replete electrolytes
   # Prophylaxis: Subcutaneous heparin, pneumoboots, PO lansoprazole
   # Access: PICC line, PIV
   # Communication: wife, daughter (phone numbers in chart)
   # Code:  Full (discussed with wife)
   # Disposition: Called out to Floor, awaiting bed availability
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2182-5-11**] 12:15 AM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2182-5-7**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2182-05-13 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - called out to floor but concern over MS so stayed in ICU
   - 5-10minutes of shaking (vitals fine, fingerstick 180s), which
   resolved spontaneously.
   Allergies:
   Lasix (Oral) (Furosemide)
   Rash;
   Betalactams
   Rash;
   Haldol (Injection) (Haloperidol Lactate)
   Confusion/Delir
   Last dose of Antibiotics:
   Cefipime - [**2182-5-10**] 04:16 PM
   Metronidazole - [**2182-5-10**] 06:44 PM
   Vancomycin - [**2182-5-11**] 08:25 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2182-5-12**] 04:25 PM
   Heparin Sodium (Prophylaxis) - [**2182-5-12**] 11:03 PM
   Other medications:
   Changes to medical and family history:
   Unchanged
   Review of systems is unchanged from admission except as noted below
   Review of systems: No change.
   Flowsheet Data as of  [**2182-5-13**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**84**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.2
C (97.2
   HR: 59 (58 - 91) bpm
   BP: 99/52(63) {91/26(44) - 166/126(131)} mmHg
   RR: 12 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 64.3 kg (admission): 65.7 kg
   Height: 65 Inch
             Total In:
                                                                  3,122 mL
                                                                  1,322 mL
   PO:
             TF:
                                                                  1,562 mL
                                                                    462 mL
   IVF:
                                                                    250 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,035 mL
                                                                    195 mL
   Urine:
                                                                  1,035 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,087 mL
                                                                  1,127 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///36/
   Physical Examination
   General: Not opening eyes to voice at this time, appears
   comfortable/sedated
   HEENT: trach mask in place, mmm
   CV: Heart sounds regular
   Lungs: Diffuse coarse rhonchi, improved
   Abdomen: Firm, no obvious tenderness, +BS
   Extremities: edema b/l, palp DP pulses
   Labs / Radiology
   218 K/uL
   8.4 g/dL
   222 mg/dL
   1.4 mg/dL
   36 mEq/L
   4.5 mEq/L
   67 mg/dL
   96 mEq/L
   139 mEq/L
   28.2 %
   5.5 K/uL
        [image002.jpg]
                             [**2182-5-8**]  06:00 AM
                             [**2182-5-9**]  05:24 AM
                             [**2182-5-10**]  05:25 AM
                             [**2182-5-10**]  12:52 PM
                             [**2182-5-10**]  01:06 PM
                             [**2182-5-10**]  10:53 PM
                             [**2182-5-11**]  04:38 AM
                             [**2182-5-11**]  10:18 PM
                             [**2182-5-12**]  03:24 AM
                             [**2182-5-13**]  02:48 AM
   WBC
   8.1
   8.2
   9.0
   8.0
   5.5
   5.5
   Hct
   31.3
   30.3
   31.4
   31.6
   30.1
   28.2
   Plt
   [**Telephone/Fax (3) **]73
   234
   218
   Cr
   1.1
   1.0
   1.0
   1.1
   1.2
   1.2
   1.2
   1.4
   TropT
   0.11
   0.14
   0.15
   0.14
   TCO2
   39
   Glucose
   288
   386
   243
   232
   226
   250
   222
   Other labs: PT / PTT / INR:11.6/37.3/1.0, CK / CKMB /
   Troponin-T:63//0.14, ALT / AST:[**11-19**], Alk Phos / T Bili:72/0.3,
   Differential-Neuts:80.3 %, Lymph:10.9 %, Mono:5.6 %, Eos:3.3 %, Lactic
   Acid:0.9 mmol/L, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   62 M with complicated PMH including CAD, s/p vfib arrest, anoxic brain
   injury, DM, HTN, hx of aspiration and hx of TBM who presents to an OSH
   with respiratory failure requiring intubation.  Intubation was
   complicated by displacement of tracheal stent.  Now s/p rigid
   bronchoscopy with removal of stent.
   .
   # Hypoxic Respiratory Failure: Likely secondary to an aspiration event
   with aspiration pneumonia.  Was intubated and had complication with
   stent displacement. Stent removed by IP and tracheostomy placed.
   Transitioned from endotracheal intubation to trach mask, tolerating
   well. Over last 24 hours, CXR has showed increased markings consistent
   with edema/infiltrate. Despite Bumex, net fluid balance from [**5-10**] is
   positive. Sputum gram stain from [**5-10**] with yeast and GPC in pairs.
   - PRN nebs
   - all abx stopped yesterday, completed HAP with aspiration coverge
   course
   - Trend UOP
   - Bumex 1 mg IV BID PRN for fluid overload (hold today)
   .
   # Volume overload: has had decreased UOP and was about 1 L positive
   yesterday, although seems euvolemic to dry intravascularly on exam
   because of insensible losses.  Sweats profusely during the day.
   - monitor I/O, daily weights
   - prerenal on labs
   - hold on bumex today and monitor UOP; also will discuss with renal if
   high tacro may be contributing
   - Check PM lytes
   # Brief runs of VT on [**5-10**]: Possibly secondary to hypoxia. Have been
   self-limited thus far. Baseline EKG without changes. No further
   episodes.
   - Continue to monitor
   # Troponin leak: Given trop < 0.01 on [**5-3**], suspect that elevation does
   represent demand ischemia. However, CKs have been WNL suggesting that
   this leak likely occurred prior to enzyme check yesterday. CK, CK-MB
   remain flat, troponin 0.14 has plateaued.
   - Continue to monitor
   # Pneumonia: likely had aspiration event, with question of pneumonia as
   a result.  Distress was so acute that he was felt to likely just have
   pneumonitis but was covered for hospital-acquired pathogens in the
   setting of resp failure.  Has beta-lactam allergy. Now sputum with GPC
   in pairs and yeast from [**5-10**]
   - stopped abx, completed total 9 d course
   - F/u sputum culture with sensitivities
   - no signs of sepsis at this time
   .
   # Convulsions/diaphoresis, neurologic status:  Convulsions improved
   with anxiolytic medication. However, patient has now been off of Ativan
   for 24 hours without improvement in mental status. He is far from
   baseline of interacting, feeding self, etc. per daughter.
   - d/c standing Klonopin
   - continue morphine or ativan 0.5-2mg IV q 4 hours PRN agitation
   - Continue home psych meds
   - f/u repeat head CT
   - EEG
   .
   # Stent Displacement: Likely consequence of intubation, now s/p rigid
   bronchoscopy with stent removal.  Currently with tracheostomy, no stent
   placed at this time. Will likely need repeat stent placement at some
   point in the future but needs to be medically optimized prior to this.
   - IP signing off for now.
   .
   # Eosinophilia
 eosinophilia noted on yesterday
s labs, ~unchanged
   from yesterday.
   - monitor daily
   - now off abx, continue to monitor
   # Hypernatremia. Resolved with increase in free water flushes.
   - Continue 250 cc free water flush through NGT Q6H
   .
   # ARF: Cr initially to 1.6  (baseline of 1.1-1.3)  Improved and
   currently at baseline
   - f/u renal transplant team recs
   .
   # Immunosuppression (s/p renal transplant): is on chronic
   immunosuppression which puts him at risk of uncommon infections, no
   signs of fever or sepsis now.
   - continue cellcept, prograf
   - will continue prednisone once off decadron
   - check prograf level this AM; will likely need to be redosed per renal
   recs.  Current dosage 4mg PO qPM and 3mg q AM.
   - continue bactrim ppx (M/W/F)
   .
   # DM: has labile blood sugars, high in the setting of abx in D5 and
   after getting steroids.  Blood sugars better controlled but continue to
   be elevated despite increase in lantus and ISS.
   - continue lantus at 27
   - change to low sugar tube feeding
   - tighten sliding scale prn
   .
   # HTN: normotensive today, few high readings yesterday AM.
   - continue enalapril at home dose with holding parameters
   - continue metoprolol at home dose with holding parameters
   .
   # CAD: EKG without changes, CEs flat on initial check, no signs of
   cardiogenic shock, no hx of chest pain.
   - continue aspirin
   - continue statin
   .
   # Hx of CVA: sedated, but moving all extremities
   - continue statin
   .
   # Dementia and s/p anoxic brain injury: sedated with fentanyl and
   versed.
   - will attempt to restart psych meds
   - continue SSRI
   .
   # FEN: IVF, tube feeds, replete electrolytes
   # Prophylaxis: Subcutaneous heparin, pneumoboots, PO lansoprazole
   # Access: PICC line, PIV
   # Communication: wife, daughter (phone numbers in chart)
   # Code:  Full (discussed with wife)
   # Disposition: Called out to Floor, awaiting bed availability
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2182-5-12**] 10:22 PM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2182-5-7**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2182-05-14 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Likely discharge to rehab today.  Overnight had hypoglycemia noted to
   40 and was treated based on hypoglycemia protocol. No reported episodes
   of shaking/diaphoresis. Routine u/a performed yesterday showed UTI.
   Allergies:
   Lasix (Oral) (Furosemide)
   Rash;
   Betalactams
   Rash;
   Haldol (Injection) (Haloperidol Lactate)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2182-5-11**] 08:25 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2182-5-13**] 10:07 AM
   Heparin Sodium (Prophylaxis) - [**2182-5-14**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unchanged
   Flowsheet Data as of  [**2182-5-14**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**84**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 71 (56 - 79) bpm
   BP: 155/75(92) {83/44(53) - 171/110(115)} mmHg
   RR: 16 (13 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 65.7 kg
   Height: 65 Inch
             Total In:
                                                                  2,713 mL
                                                                    617 mL
   PO:
             TF:
                                                                  1,563 mL
                                                                    452 mL
   IVF:
                                                                    275 mL
                                                                     35 mL
   Blood products:
   Total out:
                                                                  1,410 mL
                                                                    212 mL
   Urine:
                                                                  1,410 mL
                                                                    212 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,303 mL
                                                                    405 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: ///38/
   Physical Examination
   General: Alert but not responsive, appears comfortable
   HEENT: trach mask in place, mmm
   CV: Heart sounds regular
   Lungs: Diffuse coarse rhonchi, improved
   Abdomen: Firm, no obvious tenderness, +BS
   Extremities: edema b/l, palp DP pulses
   Labs / Radiology
   254 K/uL
   9.9 g/dL
   122 mg/dL
   1.4 mg/dL
   38 mEq/L
   4.4 mEq/L
   64 mg/dL
   100 mEq/L
   143 mEq/L
   31.8 %
   8.5 K/uL
        [image002.jpg]
                             [**2182-5-9**]  05:24 AM
                             [**2182-5-10**]  05:25 AM
                             [**2182-5-10**]  12:52 PM
                             [**2182-5-10**]  01:06 PM
                             [**2182-5-10**]  10:53 PM
                             [**2182-5-11**]  04:38 AM
                             [**2182-5-11**]  10:18 PM
                             [**2182-5-12**]  03:24 AM
                             [**2182-5-13**]  02:48 AM
                             [**2182-5-14**]  03:28 AM
   WBC
   8.2
   9.0
   8.0
   5.5
   5.5
   8.5
   Hct
   30.3
   31.4
   31.6
   30.1
   28.2
   31.8
   Plt
   198
   226
   273
   [**Telephone/Fax (3) 12067**]
   Cr
   1.0
   1.0
   1.1
   1.2
   1.2
   1.2
   1.4
   1.4
   TropT
   0.11
   0.14
   0.15
   0.14
   TCO2
   39
   Glucose
   [**Telephone/Fax (3) 12068**]
   122
   Other labs: PT / PTT / INR:11.6/37.3/1.0, CK / CKMB /
   Troponin-T:63//0.14, ALT / AST:[**11-19**], Alk Phos / T Bili:72/0.3,
   Differential-Neuts:80.3 %, Lymph:10.9 %, Mono:5.6 %, Eos:3.3 %, Lactic
   Acid:0.9 mmol/L, Ca++:9.5 mg/dL, Mg++:2.6 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   62 M with complicated PMH including CAD, s/p vfib arrest, anoxic brain
   injury, DM, HTN, hx of aspiration and hx of TBM who presents to an OSH
   with respiratory failure requiring intubation.  Intubation was
   complicated by displacement of tracheal stent.  Now s/p rigid
   bronchoscopy with removal of stent.
   .
   # Hypoxic Respiratory Failure: Likely secondary to an aspiration event
   with aspiration pneumonia.  Was intubated and had complication with
   stent displacement. Stent removed by IP and tracheostomy placed.
   Transitioned from endotracheal intubation to trach mask, tolerating
   well. Over last 24 hours, CXR has showed increased markings consistent
   with edema/infiltrate. Despite Bumex, net fluid balance from admission
   is positive, but likely increased insensible losses from diaphoresis..
   Sputum gram stain from [**5-10**] with yeast and GPC in pairs.
   - PRN nebs
   - all abx stopped yesterday, completed HAP with aspiration coverge
   course
   - Trend UOP
   - Bumex 1 mg IV BID PRN for fluid overload (hold today)
   .
   # Volume overload: has had decreased UOP and was about 1 L positive
   yesterday, although seems euvolemic to dry intravascularly on exam
   because of insensible losses.  Sweats profusely during the day.
   - monitor I/O, daily weights
   - hold on bumex today and monitor UOP; also will discuss with renal if
   high tacro may be contributing
   - Check PM lytes
   .
   # UTI
 On routine laboratory test from yesterday revealed 21-50 WBCs,
   mod LE, and mod bacteria.
   - Start ciprofloxacin 500mg NG [**Hospital1 **] x 2 weeks for complicated UTI
   (catheter in place)
   - Change out foley catheter today.
   .
   # Brief runs of VT on [**5-10**]: Possibly secondary to hypoxia. Have been
   self-limited thus far. Baseline EKG without changes. No further
   episodes.
   - Continue to monitor
   # Troponin leak: Given trop < 0.01 on [**5-3**], suspect that elevation does
   represent demand ischemia. However, CKs have been WNL suggesting that
   this leak likely occurred prior to enzyme check yesterday. CK, CK-MB
   remain flat, troponin 0.14 has plateaued.
   - Continue to monitor
   # Pneumonia: likely had aspiration event, with question of pneumonia as
   a result.  Distress was so acute that he was felt to likely just have
   pneumonitis but was covered for hospital-acquired pathogens in the
   setting of resp failure.  Has beta-lactam allergy. Now sputum with GPC
   in pairs and yeast from [**5-10**]
   - stopped abx, completed total 9 d course
   - F/u sputum culture with sensitivities
   - no signs of sepsis at this time
   .
   # Convulsions/diaphoresis, neurologic status:  Convulsions improved
   with anxiolytic medication. However, patient has now been off of Ativan
   for 24 hours without improvement in mental status. He is far from
   baseline of interacting, feeding self, etc. per daughter.
   - now off of standing Klonopin with no further shaking/diaphoresis
   episodes
   - continue morphine or ativan 0.5-2mg IV q 4 hours PRN agitation
   - Continue home psych meds
   - f/u repeat head CT
   - EEG
   .
   # Stent Displacement: Likely consequence of intubation, now s/p rigid
   bronchoscopy with stent removal.  Currently with tracheostomy, no stent
   placed at this time. Will likely need repeat stent placement at some
   point in the future but needs to be medically optimized prior to this.
   - IP signing off for now.
   .
   # Eosinophilia
 eosinophilia noted on yesterday
s labs, ~unchanged
   from yesterday.
   - monitor daily
   - now off abx, continue to monitor
   # Hypernatremia. Resolved with increase in free water flushes.
   - Continue 250 cc free water flush through NGT Q6H
   .
   # ARF: Cr initially to 1.6  (baseline of 1.1-1.3)  Improved and
   currently at baseline
   - f/u renal transplant team recs
   .
   # Immunosuppression (s/p renal transplant): is on chronic
   immunosuppression which puts him at risk of uncommon infections, no
   signs of fever or sepsis now.
   - continue cellcept, prograf
   - will continue prednisone once off decadron
   - check prograf level this AM; will likely need to be redosed per renal
   recs.  Current dosage 4mg PO qPM and 3mg q AM.
   - continue bactrim ppx (M/W/F)
   .
   # DM: has labile blood sugars, high in the setting of abx in D5 and
   after getting steroids.  Blood sugars better controlled but continue to
   be elevated despite increase in lantus and ISS.
   - continue lantus at 27
   - change to low sugar tube feeding
   - tighten sliding scale prn
   .
   # HTN: normotensive today, few high readings yesterday AM.
   - continue enalapril at home dose with holding parameters
   - continue metoprolol at home dose with holding parameters
   .
   # CAD: EKG without changes, CEs flat on initial check, no signs of
   cardiogenic shock, no hx of chest pain.
   - continue aspirin
   - continue statin
   .
   # Hx of CVA: sedated, but moving all extremities
   - continue statin
   .
   # Dementia and s/p anoxic brain injury: sedated with fentanyl and
   versed.
   - will attempt to restart psych meds
   - continue SSRI
   .
   # FEN: IVF, tube feeds, replete electrolytes
   # Prophylaxis: Subcutaneous heparin, pneumoboots, PO lansoprazole
   # Access: PICC line, PIV
   # Communication: wife, daughter (phone numbers in chart)
   # Code:  Full (discussed with wife)
   # Disposition: Called out to Floor, awaiting bed availability
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2182-5-13**] 09:24 PM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2182-5-7**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2182-05-15 07:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2182-5-14**]:
   - Renal recs: keep same tacro dosing despite slightly elevated level
   compared with goal. Check tacro level Q3d while inpatient. Hold
   diuretics for now. Continue cipro/Bactrim.
   - Seen by PT today, cleared for rehab.
   - Bed at rehab for tomorrow
   - EEG: Per Dr. [**First Name (STitle) **] (neuro), background of 7-Hz is consistent with
   encephalopathy. In addition, ? bursts of delta waves are also
   consistent with encephalopathy, although could represent
   subcotical/deep midline dysfunction.
   - Lantus decreased to 20 units QHS given FS of 40 earlier; however,
   before patient received decreased dose, had FS of 391 this PM. TF have
   been running at constant rate. Will monitor for now and patient will
   receive 20u tonight.
   - Hct drop with AM labs overnight to 26 -> repeat to 21. Re-check is
   29.
   Allergies:
   Lasix (Oral) (Furosemide)
   Rash;
   Betalactams
   Rash;
   Haldol (Injection) (Haloperidol Lactate)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2182-5-14**] 10:35 PM
   Heparin Sodium (Prophylaxis) - [**2182-5-15**] 12:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-5-15**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**84**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.4
   HR: 75 (57 - 76) bpm
   BP: 103/52(61) {95/47(60) - 190/99(115)} mmHg
   RR: 16 (12 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 65.7 kg
   Height: 65 Inch
             Total In:
                                                                  2,182 mL
                                                                    587 mL
   PO:
             TF:
                                                                  1,572 mL
                                                                    498 mL
   IVF:
                                                                    120 mL
                                                                     38 mL
   Blood products:
   Total out:
                                                                    712 mL
                                                                    215 mL
   Urine:
                                                                    712 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,470 mL
                                                                    372 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%  (12L O2)
   Physical Examination
   General: Alert but not responsive, appears comfortable
   HEENT: trach mask in place, mmm
   CV: Heart sounds regular
   Lungs: Diffuse coarse rhonchi, improved
   Abdomen: Firm, no obvious tenderness, +BS
   Extremities: edema b/l, palp DP pulses
   Labs / Radiology
   223 K/uL
   8.3 g/dL
   130 mg/dL
   1.3 mg/dL
   39 mEq/L
   4.2 mEq/L
   65 mg/dL
   103 mEq/L
   145 mEq/L
   29.1 %
   6.5 K/uL
        [image002.jpg]
                             [**2182-5-10**]  01:06 PM
                             [**2182-5-10**]  10:53 PM
                             [**2182-5-11**]  04:38 AM
                             [**2182-5-11**]  10:18 PM
                             [**2182-5-12**]  03:24 AM
                             [**2182-5-13**]  02:48 AM
                             [**2182-5-14**]  03:28 AM
                             [**2182-5-15**]  02:32 AM
                             [**2182-5-15**]  04:32 AM
                             [**2182-5-15**]  05:58 AM
   WBC
   8.0
   5.5
   5.5
   8.5
   6.5
   Hct
   31.6
   30.1
   28.2
   31.8
   26.8
   21.9
   29.1
   Plt
   273
   234
   218
   254
   223
   Cr
   1.1
   1.2
   1.2
   1.2
   1.4
   1.4
   1.3
   TropT
   0.11
   0.14
   0.15
   0.14
   Glucose
   232
   226
   250
   222
   122
   130
   Other labs: PT / PTT / INR:11.3/31.5/0.9,
   Ca++:9.4 mg/dL, Mg++:2.7 mg/dL, PO4:2.5 mg/dL
   FS: 394, 191, 147
   Tacro: 6
   Assessment and Plan
   62 M with complicated PMH including CAD, s/p vfib arrest, anoxic brain
   injury, DM, HTN, hx of aspiration and hx of TBM who presents to an OSH
   with respiratory failure requiring intubation.  Intubation was
   complicated by displacement of tracheal stent.  Now s/p rigid
   bronchoscopy with removal of stent.
   .
   # Hypoxic Respiratory Failure: Likely secondary to an aspiration event
   with aspiration pneumonia.  Was intubated and had complication with
   stent displacement. Stent removed by IP and tracheostomy placed.
   Transitioned from endotracheal intubation to trach mask, tolerating
   well. Over last 24 hours, CXR has showed increased markings consistent
   with edema/infiltrate. Despite Bumex, net fluid balance from admission
   is positive, but likely increased insensible losses from diaphoresis..
   Sputum gram stain from [**5-10**] with yeast and GPC in pairs.
   - PRN nebs
   - all abx stopped yesterday, completed HAP with aspiration coverge
   course
   - Trend UOP
   - Bumex 1 mg IV BID PRN for fluid overload (hold today)
   .
   # Volume overload: has had decreased UOP and was about 1 L positive
   yesterday, although seems euvolemic to dry intravascularly on exam
   because of insensible losses.  Sweats profusely during the day.
   - monitor I/O, daily weights
   - hold on bumex today and monitor UOP; also will discuss with renal if
   high tacro may be contributing
   - Check PM lytes
   .
   # UTI
 On routine laboratory test from yesterday revealed 21-50 WBCs,
   mod LE, and mod bacteria.
   - Start ciprofloxacin 500mg NG [**Hospital1 **] x 2 weeks for complicated UTI
   (catheter in place)
 recheck UA after 7 days
   - Continue condom cath
   .
   # Brief runs of VT on [**5-10**]: Possibly secondary to hypoxia. Have been
   self-limited thus far. Baseline EKG without changes. No further
   episodes.
   - Continue to monitor
   # Troponin leak: Given trop < 0.01 on [**5-3**], suspect that elevation does
   represent demand ischemia. However, CKs have been WNL suggesting that
   this leak likely occurred prior to enzyme check yesterday. CK, CK-MB
   remain flat, troponin 0.14 has plateaued.
   - Continue to monitor
   - Check EKG
   # Pneumonia: likely had aspiration event, with question of pneumonia as
   a result.  Distress was so acute that he was felt to likely just have
   pneumonitis but was covered for hospital-acquired pathogens in the
   setting of resp failure.  Has beta-lactam allergy. Now sputum with GPC
   in pairs and yeast from [**5-10**]
   - stopped abx, completed total 9 d course
   - F/u sputum culture with sensitivities
   - no signs of sepsis at this time
   .
   # Convulsions/diaphoresis, neurologic status:  Convulsions improved
   with anxiolytic medication. However, patient has now been off of Ativan
   for 24 hours without improvement in mental status. He is far from
   baseline of interacting, feeding self, etc. per daughter.
   - now off of standing Klonopin with no further shaking/diaphoresis
   episodes
   - continue morphine or ativan 0.5-2mg IV q 4 hours PRN agitation
   - Continue home psych meds
   - f/u repeat head CT
   - F/U EEG
   .
   # Stent Displacement: Likely consequence of intubation, now s/p rigid
   bronchoscopy with stent removal.  Currently with tracheostomy, no stent
   placed at this time. Will likely need repeat stent placement at some
   point in the future but needs to be medically optimized prior to this.
   - IP signing off for now.
   .
   # Eosinophilia
 eosinophilia noted on yesterday
s labs, ~unchanged
   from yesterday.
   - monitor daily
   - now off abx, continue to monitor
   # Hypernatremia. Resolved with increase in free water flushes.
   - Continue 250 cc free water flush through NGT Q6H
   .
   # ARF: Cr initially to 1.6  (baseline of 1.1-1.3)  Improved and
   currently at baseline
   - f/u renal transplant team recs
   .
   # Immunosuppression (s/p renal transplant): is on chronic
   immunosuppression which puts him at risk of uncommon infections, no
   signs of fever or sepsis now.
   - continue cellcept, prograf
   - will continue prednisone once off decadron
   - check prograf level this AM; will likely need to be redosed per renal
   recs.  Current dosage 4mg PO qPM and 3mg q AM.
   - continue bactrim ppx (M/W/F)
   .
   # DM: has labile blood sugars, high in the setting of abx in D5 and
   after getting steroids.  Blood sugars have been better controlled but
   pt continued to be elevated despite increase in lantus and ISS; now
   hypoglycemic episode.
   - Decrease lantus to 20 for now
   - change to low sugar tube feeding
   - tighten sliding scale prn
   .
   # HTN: normotensive today, few high readings yesterday AM.
   - continue enalapril at home dose with holding parameters
   - continue metoprolol at home dose with holding parameters
   .
   # CAD: EKG without changes, CEs flat on initial check, no signs of
   cardiogenic shock, no hx of chest pain.
   - continue aspirin
   - continue statin
   .
   # Hx of CVA: sedated, but moving all extremities
   - continue statin
   .
   # Dementia and s/p anoxic brain injury: sedated with fentanyl and
   versed.
   - will attempt to restart psych meds
   - continue SSRI
   .
   # FEN: IVF, tube feeds, replete electrolytes
   # Prophylaxis: Subcutaneous heparin, pneumoboots, PO lansoprazole
   # Access: PICC line, PIV
   # Communication: wife, daughter (phone numbers in chart)
   # Code:  Full (discussed with wife)
   # Disposition: Called out to Floor, awaiting bed availability
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2182-5-14**] 08:16 PM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2182-5-7**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2182-05-16 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2182-5-15**]:
   - episode of BP of 81/52, given 500cc IVF with SBP return to 120s
   - variable blood sugars - low 400s to 200s
   - No new renal recs
   Allergies:
   Lasix (Oral) (Furosemide)
   Rash;
   Betalactams
   Rash;
   Haldol (Injection) (Haloperidol Lactate)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-5-15**] 08:30 AM
   Lorazepam (Ativan) - [**2182-5-15**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-5-16**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**84**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.8
C (98.2
   HR: 82 (64 - 88) bpm
   BP: 117/46(62) {73/31(41) - 175/98(117)} mmHg
   RR: 27 (16 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.6 kg (admission): 65.7 kg
   Height: 65 Inch
                  Total In:
                                                                  2,640 mL
                                                                    737 mL
   PO:
                  TF:
                                                                  1,564 mL
                                                                    467 mL
   IVF:
                                                                    536 mL
   Blood products:
   Total out:
                                                                    965 mL
                                                                    400 mL
   Urine:
                                                                    965 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,675 mL
                                                                    337 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: ///32/
   Physical Examination
   General: Alert but not responsive, appears comfortable
   HEENT: trach mask in place, mmm
   CV: Heart sounds regular
   Lungs: Diffuse coarse rhonchi, improved
   Abdomen: Firm, no obvious tenderness, +BS
   Extremities: edema b/l, palp DP pulses
   Labs / Radiology
   201 K/uL
   7.6 g/dL
   407 mg/dL
   1.5 mg/dL
   32 mEq/L
   5.1 mEq/L
   65 mg/dL
   101 mEq/L
   140 mEq/L
   25.7 %
   5.5 K/uL
        [image002.jpg]
                             [**2182-5-10**]  10:53 PM
                             [**2182-5-11**]  04:38 AM
                             [**2182-5-11**]  10:18 PM
                             [**2182-5-12**]  03:24 AM
                             [**2182-5-13**]  02:48 AM
                             [**2182-5-14**]  03:28 AM
                             [**2182-5-15**]  02:32 AM
                             [**2182-5-15**]  04:32 AM
                             [**2182-5-15**]  05:58 AM
                             [**2182-5-16**]  03:19 AM
   WBC
   8.0
   5.5
   5.5
   8.5
   6.5
   5.5
   Hct
   31.6
   30.1
   28.2
   31.8
   26.8
   21.9
   29.1
   25.7
   Plt
   273
   234
   218
   [**Telephone/Fax (3) 12092**]
   Cr
   1.2
   1.2
   1.2
   1.4
   1.4
   1.3
   1.5
   TropT
   0.14
   0.15
   0.14
   Glucose
   [**Telephone/Fax (3) 12093**]22
   130
   407
   Other labs: PT / PTT / INR:11.3/31.5/0.9, CK / CKMB /
   Troponin-T:63//0.14, ALT / AST:[**11-19**], Alk Phos / T Bili:72/0.3,
   Differential-Neuts:80.3 %, Lymph:10.9 %, Mono:5.6 %, Eos:3.3 %, Lactic
   Acid:0.9 mmol/L, Ca++:8.9 mg/dL, Mg++:2.4 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   62 M with complicated PMH including CAD, s/p vfib arrest, anoxic brain
   injury, DM, HTN, hx of aspiration and hx of TBM who presents to an OSH
   with respiratory failure requiring intubation.  Intubation was
   complicated by displacement of tracheal stent.  Now s/p rigid
   bronchoscopy with removal of stent.
   .
   # Hypoxic Respiratory Failure: Likely secondary to an aspiration event
   with aspiration pneumonia.  Was intubated and had complication with
   stent displacement. Stent removed by IP and tracheostomy placed.
   Transitioned from endotracheal intubation to trach mask, tolerating
   well. Over last 24 hours, CXR has showed increased markings consistent
   with edema/infiltrate. Despite Bumex, net fluid balance from admission
   is positive, but likely increased insensible losses from diaphoresis..
   Sputum gram stain from [**5-10**] with yeast and GPC in pairs.
   - PRN nebs
   - all abx stopped, completed HAP with aspiration coverge course
   - Trend UOP
   - Off diuretics for now
 consider Bumex for fluid overload
   .
   # ARF: Cr initially to 1.6  (baseline of 1.1-1.3)  then returned to
   baseline but now with worsening renal function
   - f/u renal transplant team recs
   - send urine lytes
   - give 1L NS check response
   .
   # DM: has labile blood sugars, high in the setting of abx in D5 and
   after getting steroids.  Blood sugars have been better controlled but
   pt continued to be elevated despite increase in lantus and ISS;
   hypoglycemic episode to 40 a few days ago with increased Lantus of 27.
   Now with elevated sugars ranging from 200s to 250.
   -  Change Lantus to 25 and tighten sliding scale
   -  [**Last Name (un) 276**] consult
   - change to low sugar tube feeding
   .
   # Volume overload: has had decreased UOP and was about 1 L positive
   yesterday, although seems euvolemic to dry intravascularly on exam
   because of insensible losses.  Sweats profusely during the day.
   - monitor I/O, daily weights
   - hold on bumex today and monitor UOP; also will discuss with renal if
   high tacro may be contributing
   - Check PM lytes
   .
   # UTI
 On routine laboratory test from yesterday revealed 21-50 WBCs,
   mod LE, and mod bacteria.
   - Start ciprofloxacin 500mg NG [**Hospital1 **] x 2 weeks for complicated UTI
   (catheter in place)
 recheck UA after 7 days
   - Continue condom cath
   .
   # Brief runs of VT on [**5-10**]: Possibly secondary to hypoxia. Have been
   self-limited thus far. Baseline EKG without changes. No further
   episodes.
   - Continue to monitor
   # Troponin leak: Given trop < 0.01 on [**5-3**], suspect that elevation does
   represent demand ischemia. However, CKs have been WNL suggesting that
   this leak likely occurred prior to enzyme check yesterday. CK, CK-MB
   remain flat, troponin 0.14 has plateaued.
   - Continue to monitor
   # Pneumonia: likely had aspiration event, with question of pneumonia as
   a result.  Distress was so acute that he was felt to likely just have
   pneumonitis but was covered for hospital-acquired pathogens in the
   setting of resp failure.  Has beta-lactam allergy. Now sputum with GPC
   in pairs and yeast from [**5-10**]; culture showed only yeast.
   - Off abx, completed total 9 d course
   - no signs of sepsis at this time
   .
   # Convulsions/diaphoresis, neurologic status:  Convulsions improved
   with anxiolytic medication. However, patient has now been off of Ativan
   for 24 hours without improvement in mental status. He is far from
   baseline of interacting, feeding self, etc. per daughter.
   - now off of standing Klonopin with no further shaking/diaphoresis
   episodes
   - continue morphine or ativan 0.5-2mg IV q 4 hours PRN agitation
   - Continue home psych meds
   - f/u repeat head CT
   - F/U EEG (final read pending; prelim report consistent with
   encephalopathy)
   .
   # Stent Displacement: Likely consequence of intubation, now s/p rigid
   bronchoscopy with stent removal.  Currently with tracheostomy, no stent
   placed at this time. Will likely need repeat stent placement at some
   point in the future but needs to be medically optimized prior to this.
   - IP signing off for now.
   .
    # Immunosuppression (s/p renal transplant): is on chronic
   immunosuppression which puts him at risk of uncommon infections, no
   signs of fever or sepsis now.
   - continue cellcept, prograf
   - will continue prednisone once off decadron
   - check prograf level this AM; will likely need to be redosed per renal
   recs.  Current dosage 4mg PO qPM and 3mg q AM.
   - continue bactrim ppx (M/W/F)
   .
   # Eosinophilia
 Stabilized at 5-6% so no longer trending. Possibly
   secondary to Abx for PNA.
   - monitor daily
   - now off abx, continue to monitor
   # Hypernatremia. Resolved with increase in free water flushes. Na 140
   today.
   - Continue 250 cc free water flush through NGT Q6H
   .
   # HTN: normotensive today, few high readings yesterday AM.
   - continue enalapril at home dose with holding parameters
   - continue metoprolol at home dose with holding parameters
   .
   # CAD: EKG without changes, CEs flat on initial check, no signs of
   cardiogenic shock, no hx of chest pain.
   - continue aspirin
   - continue statin
   .
   # Hx of CVA: sedated, but moving all extremities
   - continue statin
   .
   # Dementia and s/p anoxic brain injury: sedated with fentanyl and
   versed.
   - will attempt to restart psych meds
   - continue SSRI
   .
   # FEN: IVF, tube feeds, replete electrolytes
   # Prophylaxis: Subcutaneous heparin, pneumoboots, PO lansoprazole
   # Access: PICC line, PIV
   # Communication: wife, daughter (phone numbers in chart)
   # Code:  Full (discussed with wife)
   # Disposition: Called out to Floor, awaiting bed availability
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2182-5-15**] 07:16 PM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2182-5-7**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: